US06060470
Dihydro-4,4-dimethyl-2,3-furandione (2 g, 15.6 mmole) and 1,3-diaminoguanidine monohydrochloride (12.96 g, 15.61 immole) were dissolved in ethanol and the resulting solution heated to reflux temperatures. To the refluxing reaction mixture, was added water until a clear solution was obtained. The mixture was then refluxed overnight, cooled to room temperature and stored at -20° C. overnight. The product which separated was filtered and dried. It was crystallized from a mixture of ethanol and water to give 3,4-diamino-6-(1',1'-dimethyl-2'-hydroxyethyl)-1,2,4,-triazin-5(4H)-one hydrochloride (2.24 g, 61%), m.p. 221-222° C. (dec).

reactant | Dihydro-4,4-dimethyl-2,3-furandione | 15.6 mmole, 2 g | CC1(C(C(OC1)=O)=O)C | C6H8O3
reactant | 1,3-diaminoguanidine monohydrochloride | 12.96 g | Cl.NNC(=N)NN
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3,4-diamino-6-(1',1'-dimethyl-2'-hydroxyethyl)-1,2,4,-triazin-5(4H)-one hydrochloride | 2.24 g, 61% | Cl.NC1=NN=C(C(N1N)=O)C(CO)(C)C | InChI=1S/C7H13N5O2.ClH/c1-7(2,3-13)4-5(14)12(9)6(8)11-10-4;/h13H,3,9H2,1-2H3,(H2,8,11);1H
